US09062092B2
Compound 42b. 1-((E)-2-{2-[(R)-1-(tert-Butoxycarbonyl-methyl-amino)-ethyl]-quinolin-7-yl}-vinyl)-4-oxo-cyclohexanecarboxylic acid
A solution of [(R)-1-(7-bromo-quinolin-2-yl)-ethyl]-methyl-carbamic acid tert-butyl ester (200 mg, 0.55 mmol), 4-oxo-1-vinyl-cyclohexanecarboxylic acid (138 mg, 0.82 mmol), palladium(II) acetate (25 mg, 0.11 mmol), tri-(o-tolyl)phosphine (50 mg, 0.16 mmol) in anhydrous 1,4-dioxane (2 mL) was treated with triethylamine (267 μL, 1.91 mmol). After stirring at 100° C. under microwave irradiation for 30 minutes, the reaction was cooled to room temperature and the volatiles were removed in vacuo. The residue was partitioned between ethyl acetate and a 5% citric acid solution, the aqueous layer was extracted with ethyl acetate (2 x), the organics were combined and the volatiles were removed in vacuo. The residue was purified by silica gel chromatography using a 25 g Biotage cartridge eluted with a continuous gradient of iso-hexanes/ethyl acetate 1:0 to 1:1 to afford the title compound (235 mg, 94%) as a white solid. 1H NMR (300 MHz, CDCl3) δ 1.48 (s, 9H), 1.68 (d, J=7.1 Hz, 3H), 2.07-2.22 (m, 2H), 2.44-2.70 (m, 6H), 2.75 (br s, 3H), 5.61 (br s, 1H), 6.68 (ABq, ΔδAB=0.31, JAB=16.3 Hz, 2H), 7.36 (d, J=8.5 Hz, 1H), 7.60 (d, J=8.5 Hz, 1H), 7.75 (d, J=8.5 Hz, 1H), 8.05-8.12 (m, 2H). LCMS (m/z) 453.1 [M+H], Tr=2.48 min.

reactant | [(R)-1-(7-bromo-quinolin-2-yl)-ethyl]-methyl-carbamic acid tert-butyl ester | 0.55 mmol, 200 mg | C(C)(C)(C)OC(N(C)[C@H](C)C1=NC2=CC(=CC=C2C=C1)Br)=O | C17H21BrN2O2
reactant | 4-oxo-1-vinyl-cyclohexanecarboxylic acid | 0.82 mmol, 138 mg | O=C1CCC(CC1)(C(=O)O)C=C | C9H12O3
reactant | tri-(o-tolyl)phosphine | 0.16 mmol, 50 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | triethylamine | 1.91 mmol, 267 μL | C(C)N(CC)CC | C6H15N
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
catalyst | palladium(II) acetate | 0.11 mmol, 25 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 1-((E)-2-{2-[(R)-1-(tert-Butoxycarbonyl-methyl-amino)-ethyl]-quinolin-7-yl}-vinyl)-4-oxo-cyclohexanecarboxylic acid | 235 mg, 94% | C(C)(C)(C)OC(=O)N([C@H](C)C1=NC2=CC(=CC=C2C=C1)/C=C/C1(CCC(CC1)=O)C(=O)O)C | C26H32N2O5
